US07005440B1
[3-(2-Methoxy-ethoxymethoxy)-phenyl]-methanol
To a cooled suspension (0° C.) of 60% NaH (660 mg, 16.5 mmol) in THF (35 mL) is added dropwise a solution of 3-hydroxybenzaldehyde (1.89 g, 15 mmol) in THF (15 mL) and the resulting mixture stirred for 20 min. To the mixture is added 2-methoxyethoxymethyl chloride (1.88 mL, 16.5 mmol) and DMPU (5 mL), the cold bath removed and stirred for 1 hr. The reaction mixture is cooled to 0° C. then slowly added 2M NaBH4 (in triglyme) (3.75 mL, 7.5 mmol) and let stir for 1 hr. Slowly quenched with 2N HCl soln (3.9 mL) and diluted reaction mixture with ether. The organic layer is washed with brine, dried over MgSO4 and concentrated. The residue is purified by flash chromatography (silica, 60% ethyl acetate in hexanes) to give the title compound as a pale yellow oil. MS (EI) 212 (M)+.

reactant | NaH | 16.5 mmol, 660 mg | [H-].[Na+]
reactant | 3-hydroxybenzaldehyde | 15 mmol, 1.89 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 2-methoxyethoxymethyl chloride | 16.5 mmol, 1.88 mL | COCCOCCl | C4H9ClO2
reactant | NaBH4 | 7.5 mmol, 2M, 3.75 mL | [BH4-].[Na+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | DMPU | 5 mL | CN1CCCN(C1=O)C | C6H12N2O
product | [3-(2-Methoxy-ethoxymethoxy)-phenyl]-methanol | COCCOCOC=1C=C(C=CC1)CO | C11H16O4
